US04810806
A mixture of 29.1 g (0.50 mol) of dry potassium fluoride, 88.3 g (0.50 mol) of 2-chloroethyl trifluoroacetate, 150 mL of dimethylsulfoxide, and 50 g (0.50 mol) of tetrafluoroethylene was shaken in a 400-mL metal tube at 75° for 18 h. Volatile products were transferred from the reaction mixture held at 43° (1.2 mm). These volatiles were stirred with 500 mL of 10% aqueous NaOH to remove unreacted ester and a small amount of dimethylsulfoxide, then fractionated to afford 61.6 g (47%) of 2-trifluoromethyl-2-pentafluoroethyl-1,3-dioxolane, b.p. 118°-120°. IR (CCl4) and NMR (CCl4) spectra for the product were consistent with the assigned structure.

reactant | potassium fluoride | 0.50 mol, 29.1 g | [F-].[K+]
reactant | 2-chloroethyl trifluoroacetate | 0.50 mol, 88.3 g | FC(C(=O)OCCCl)(F)F | C4H4ClF3O2
reactant | tetrafluoroethylene | 0.50 mol, 50 g | FC(=C(F)F)F | C2F4
reactant | NaOH | 500 mL | [OH-].[Na+]
solvent | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
product | 2-trifluoromethyl-2-pentafluoroethyl-1,3-dioxolane | 61.6 g, 47% | FC(C1(OCCO1)C(C(F)(F)F)(F)F)(F)F | C6H4F8O2
